US04284634
To a cold solution of dimethyl 2-methyl-4-(2-cyanophenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate (2.3 g) in methanol (46 ml) at -5° C. was added portionwise sodium borohydride (140.7 mg) for 10 minutes, during which the temperature was kept at -4° to -5° C. with stirring. The mixture was stirred for additional 15 minutes at -6° C. The reaction mixture was diluted with water (20 ml) and acidified to about pH 5 with 50% actic acid, and then condensed under reduced pressure to separate out crystalline product. After adding water (30 ml), the crystals were collected by filtration, washed thoroughly with water and dried. Thus obtained crystals (2.05 g) were recrystallized from methanol (15 ml) to give pure crystals of dimethyl 2-methyl-4-(2-cyanophenyl)-6-hydroxymethyl-1,4-dihydropyridine-3,5-dicarboxylate (1.67 g), mp 177° to 178° C.

reactant | dimethyl 2-methyl-4-(2-cyanophenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate | 2.3 g | CC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1)C#N)C(=O)OC)C=O | C18H16N2O5
reactant | sodium borohydride | 140.7 mg | [BH4-].[Na+]
reactant | actic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 46 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | dimethyl 2-methyl-4-(2-cyanophenyl)-6-hydroxymethyl-1,4-dihydropyridine-3,5-dicarboxylate | 1.67 g | CC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1)C#N)C(=O)OC)CO | C18H18N2O5
